US08258097B2
(S)-3-(4-Benzyloxy-3-ethylcarbamoyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester (220 mg) was dissolved in 4M HCl in dioxane (3 ml) and the solution was left at room temperature for ca 2 hr. Evaporation of solvent gave a white solid which was redissolved in methanol (5 ml) and hydrogenated at 1 atmosphere of hydrogen gas over 5% palladium-carbon (44 mg). After stirring overnight at room temperature the catalyst was removed by filtration and washed with methanol. Evaporation of the filtrate gave a gum which was crystallised from methanol-ether. (S)-2-(3-Ethylcarbamoyloxy-4-hydroxy-phenyl)-1-methoxycarbonyl-ethyl-ammonium chloride was obtained as a white solid, 110 mg; NMR (500 MHz, d6 DMSO) 1.07 (3H, t J 7), 2.94-3.09 (4H, m), 3.67 (3H, s), 4.18 (1H, t J 6), 6.84 (3H, br s), 7.56 (1H, t J 5.5), 8.43 (ca 3H, br s), 9.55 (1H, s); HPLC/MS retention time 3.41 min, m/z 283 (MH+).

reactant | (S)-3-(4-Benzyloxy-3-ethylcarbamoyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | 220 mg | COC([C@H](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC(NCC)=O)NC(=O)OC(C)(C)C)=O | C25H32N2O7
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 44 mg | [C].[Pd]
product | (S)-2-(3-Ethylcarbamoyloxy-4-hydroxy-phenyl)-1-methoxycarbonyl-ethyl-ammonium chloride | [Cl-].C(C)NC(=O)OC=1C=C(C=CC1O)C[C@@H](C(=O)OC)[NH3+] | InChI=1S/C13H18N2O5.ClH/c1-3-15-13(18)20-11-7-8(4-5-10(11)16)6-9(14)12(17)19-2;/h4-5,7,9,16H,3,6,14H2,1-2H3,(H,15,18);1H/t9-;/m0./s1
